US07531532B2
4-{2-Fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine
To a solution of 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine (811 mg) in tetrahydrofuran (50 ml) was added a solution of 2-phenylacetyl isocyanate in hexane (0.25 M, 17 ml) at room temperature, followed by stirring for 5 hours. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, ethyl acetate:methanol=97:3). Fractions containing the target compound were concentrated to give a residue, which was then suspended in ethyl acetate (8 ml) and hexane (16 ml). The crystals were filtered off and dried under aeration to provide the titled compound (629 mg, 61%) as white crystals.

reactant | 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine | 811 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1)F | C22H29FN6O2
reactant | 2-phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 0.25 M, 17 ml | CCCCCC | C6H14
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | 16 ml | CCCCCC | C6H14
product | 4-{2-Fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine | 629 mg, 61% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=CC(=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C31H36FN7O4
